US09145441B2
A solution of 2-(3-vinyl-phenyl)-piperidine-1-carboxylic acid tert-butyl ester (650 mg, 2.26 mmol) in dichloromethane (15 mL) was cooled to 0° C., before adding trimethylsilyl trifluoromethanesulfonate (569 μL, 3.39 mmol). The reaction mixture was stirred at 0° C. for 1 h before adding N,N-diisopropylethylamine (1.6 mL, 5.24 mmol) to afford the 2-(3-vinyl-phenyl)-piperidine as a yellow solid. The solid was redissolved, along with 28f (900 mg, 1.98 mmol) in acetonitrile (20 mL). The solution was cooled to 0° C., before adding 2-(1H-7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyl uronium hexafluorophosphate methanaminium (1.05 g, 2.77 mmol) and N,N-diisopropylethylamine (1.4 mL, 7.92 mmol). The stirred reaction mixture was allowed to slowly warm to RT. After 2 h, the solvent was evaporated and the remaining residue dissolved in ethyl acetate (30 mL) and washed with water (3×30 mL). The organics were dried over anhydrous sodium sulfate, filtered and concentrated. The resultant residue was purified by silica gel chromatography using a stepwise gradient of iso-hexanes/ethyl acetate 1:0 to 0:1 to afford the title compound (1.25 g, 100%) as a yellow solid.

reactant | 2-(3-vinyl-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | 2.26 mmol, 650 mg | C(C)(C)(C)OC(=O)N1C(CCCC1)C1=CC(=CC=C1)C=C | C18H25NO2
reactant | trimethylsilyl trifluoromethanesulfonate | 3.39 mmol, 569 μL | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | N,N-diisopropylethylamine | 5.24 mmol, 1.6 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 2-(3-vinyl-phenyl)-piperidine | C(=C)C=1C=C(C=CC1)C1NCCCC1 | C13H17N
